US07074806B2
Synthesis of [3-(5-Fluoro-2-methoxy-phenyl)-3-methyl-1-quinolin-4-ylmethyl-1-trifluoromethyl-butyl]-methyl-amine (Compound 24)
A solution of 3-(5-fluoro-2-methoxy-phenyl)-3-methyl-1-quinolin-4-ylmethyl-1-trifluoromethyl-butylamine (42.0 mg, 0.1 mmol) and formaldehyde (8 μL, 0.1 mmol) in dichloroethane (2 mL) was stirred for 30 min at room temperature in the presence of 4A molecular sieves (200 mg). The reaction mixture was acidified with acetic acid (57 μL, 1.0 mmol), stirred for 16 h and treated with sodium triacetoxy borohydride (42.4 mg, 0.2 mmol). The resulting mixture was stirred at room temperature for 3 h and quenched with NaHCO3 (sat. 6 mL). Phases were separated and the aqueous layer was extracted with CHCl3 (2×4 mL). The combined organic layers were dried over MgSO4, filtered and concentrated in vacuo. The residue was purified on SiO2 (20%–40%, EtOAc:Hexanes) to give 24.0 mg (55%) of the title compound.

reactant | 3-(5-fluoro-2-methoxy-phenyl)-3-methyl-1-quinolin-4-ylmethyl-1-trifluoromethyl-butylamine | 0.1 mmol, 42.0 mg | FC=1C=CC(=C(C1)C(CC(C(F)(F)F)(CC1=CC=NC2=CC=CC=C12)N)(C)C)OC | C23H24F4N2O
reactant | formaldehyde | 0.1 mmol, 8 μL | C=O | CH2O
reactant | acetic acid | 1.0 mmol, 57 μL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxy borohydride | 0.2 mmol, 42.4 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 2 mL | ClC(C)Cl | C2H4Cl2
product | [3-(5-Fluoro-2-methoxy-phenyl)-3-methyl-1-quinolin-4-ylmethyl-1-trifluoromethyl-butyl]-methyl-amine | 24.0 mg, 55% | FC=1C=CC(=C(C1)C(CC(C(F)(F)F)(CC1=CC=NC2=CC=CC=C12)NC)(C)C)OC | C24H26F4N2O
